US04140775
A solution of 4-chloro-7-trifluoromethyl quinoline (1 g, 0.00216 M), 4-(o-tolyl)-1-p-aminobenzylpiperazine (1.3 g, 0.0046 M) and 3 ml of ethanolic hydrogen chloride in 25 ml of ethanol is heated at reflux for 6 hours under nitrogen. The reaction mixture is quenched with ice water, neutralized with aqueous 10% aqueous sodium hydroxide solution and extracted with methylene chloride. The methylene chloride solution is washed with water, dried over anhydrous sodium sulfate and concentrated to a white solid which, after recyrstallization from ethyl acetate/Skellysolve®B, affords 1.9 g (92%) of white crystalline 4-[[4-[[4-(2-methylpenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline of melting point 208°-210° C.

reactant | 4-chloro-7-trifluoromethyl quinoline | 0.00216 M, 1 g | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 4-(o-tolyl)-1-p-aminobenzylpiperazine | 0.0046 M, 1.3 g | C1(=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)N)C | C18H23N3
reactant | hydrogen chloride | 3 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-[[4-[[4-(2-methylpenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline | 1.9 g, 92% | CC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C28H27F3N4
